US07192969B2
Synthesis of t-butyl 4-((2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylethanoyloxy)tetrahydropyridine-1(2H)-carboxylate
To a solution of 128 mg of (2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylacetic acid in 3 ml of dimethylformamide, 81 mg of carbonyldiimidazole was added and stirred for 30 minutes. Then 121 mg of 4-hydroxy-1-t-butoxycarbonylpiperidine and 10 mg of sodium hydride were added successively, followed by another 30 minutes' stirring. The reaction liquid was diluted with ethyl acetate, washed successively with water and saturated brine, and dried over anhydrous sodium sulfate. Distilling the solvent off under reduced pressure, the residue obtained was purified on silica gel column chromatography (eluent: hexane/ethyl acetate=3/1) to provide 121 mg of the title compound.

reactant | (2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylacetic acid | 128 mg | FC1(C[C@@H](CC1)[C@](C(=O)O)(C1=CC=CC=C1)O)F | C13H14F2O3
reactant | carbonyldiimidazole | 81 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-hydroxy-1-t-butoxycarbonylpiperidine | 121 mg | OC1CCN(CC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | sodium hydride | 10 mg | [H-].[Na+]
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | t-butyl 4-((2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylethanoyloxy)tetrahydropyridine-1(2H)-carboxylate | 121 mg | FC1(C[C@@H](CC1)[C@](C(=O)OC1CCN(CC1)C(=O)OC(C)(C)C)(C1=CC=CC=C1)O)F | C23H31F2NO5
